*
*       _/_/_/_/_/_/                          
*     _/       _/                             
*      _/_/   _/          STMicroelectronics  
*         _/ _/                               
*   _/_/_/  _/                                
*   www.st.com                                
*                                             
* 
*****************************************************
*     Model Generated by STMicroelectronics         *
*             All Rights Reserved         	    *
*      Commercial Use or Resale Restricted          *
*****************************************************
* CREATION DATES: 03-08-2006                        *
*                                                   *
* POWER IGBT Model (Rev 1.0)                        *
*                                                   *
* EXTERNAL PINS DESCRIPTION:                        *
*                                                   *
* PIN 1 -> Collector                                *
* PIN 2 -> Gate                                     *
* PIN 3 -> Emitter                                  *
*                                                   *
*                    ****C****                      *
*            **********************                 *
*     ***************************************       *
*  PARAMETER MODELS EXTRACTED FROM MEASURED DATA    *
*              <<<<<<<<<<<>>>>>>>>>>>               *
*     ***************************************       *
*   THIS MODEL CAN BE USED AT TEMPERATURE: 25 °C    *
*                                                   *
*****************************************************
* MODELLING FOR STGP6NC60HD
 
.SUBCKT STGP6NC60HD 1 2 3
LG 10 2 7.5E-09
LE 3 15 7.5E-09
LC 13 1 4.5E-09
RG 10 5 15.001
RC 14 13 0.101E-02
RE 15 12 0.102E-02
RF 7 10 1MEG
RX 4 14 1.194
CGE 12 5 0.314E-09
CCG 17 4 0.316E-09
CK 16 4  0.907E-11
DCE 12 14 DE
DCG 12 11 DG
Q1 12 11 14 Q
M1 11 5 12 12 MOS
E1 16 5 8 7 1
E2 17 5 6 7 1
G1 7 9 11 10 1u
D1  8 9 DI
D2  9 6 DI
D3 16 4 DO
R1 7 8 1MEG
R2 7 6 1MEG
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 5.249
+ KP    = 3.446
+ THETA = 0.337
 
.MODEL Q PNP
+ IS    = 0.133E-25
+ VAF   = 10.003
+ BF    = 0.674
+ NE    = 1.947
+ ISE   = 0.187E-12
+ IKF   = 0.329
+ BR    = 0.872E-01
+ NC    = 1.351
+ NK    = 0.768
+ RB    = 0.101E-02
+ TF    = 0.958E-07
+ ITF   = 0.153
+ VTF   = 10.589
+ XTF   = 5.995
 
.MODEL DI D
+ IS    = 0.01E-12
+ CJO   = 0.166E-13
 
.MODEL DO D
+ IS    = 0.01E-12
+ CJO   = 0.119E-12
+ VJ    = 0.75
+ M     = 0.35
 
.MODEL DE D
+ IS    = 0.01E-12
+ CJO   = 0.582E-13
+ BV    = 665
+ VJ    = 0.75
+ M     = 0.35
 
.MODEL DG D
+ IS    = 0.01E-12
+ BV    = 665
+ VJ    = 0.75
+ M     = 0.35
 
.ENDS STGP6NC60HD
* END OF MODELLING
